US09359336B2
5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)-3-iodopyridin-2-amine
The reaction mixture of 3-iodo-5-(2H-tetrazol-5-yl)pyridin-2-amine (0.61 g, 2.12 mmol, 1 eq), (3-bromopropoxy)-tert-butyldimethylsilane (0.66 mL, 1.3 eq), and potassium carbonate (0.44 g, 1.5 eq) in anhydrous dimethylformamide (8 mL) was stirred and heated at 80° C. under nitrogen atmosphere for 2 hours. It was then diluted with ethyl acetate, washed sequentially with aqueous ammonium chloride, saturated aqueous sodium bicarbonate, and brine, and dried with anhydrous sodium sulfate. The upper clear solution was decanted and concentrated under reduced pressure with silica gel. A gradient column chromatography [Hexane to EtOAc-Hex (1:2)] rendered 5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)-3-iodopyridin-2-amine as a white solid in the amount of 797 mg.

reactant | 3-iodo-5-(2H-tetrazol-5-yl)pyridin-2-amine | 2.12 mmol, 0.61 g, 1 eq | IC=1C(=NC=C(C1)C=1N=NNN1)N | C6H5IN6
reactant | (3-bromopropoxy)-tert-butyldimethylsilane | 0.66 mL, 1.3 eq | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
reactant | potassium carbonate | 0.44 g, 1.5 eq | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-(3-((tert-butyldimethylsilyl)oxy)propyl)-2H-tetrazol-5-yl)-3-iodopyridin-2-amine | [Si](C)(C)(C(C)(C)C)OCCCN1N=C(N=N1)C=1C=C(C(=NC1)N)I | C15H25IN6OSi
